US05849735
9-[(4-Benzoylbenzoyl)]-9,10-dihydro-4H-thieno[2,3-c][1]benzazepine
As described for Example 26, 9,10-dihydro-4H-thieno[2,3-c][1]benzazepine is reacted with 4-(benzoyl)benzoyl chloride to give the product as a solid.

reactant | 9,10-dihydro-4H-thieno[2,3-c][1]benzazepine | S1C=CC2=C1CNC1=C(C2)C=CC=C1 | C12H11NS
reactant | 4-(benzoyl)benzoyl chloride | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
product | 9-[(4-Benzoylbenzoyl)]-9,10-dihydro-4H-thieno[2,3-c][1]benzazepine | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC4=C2C=CC=C4)C=CS3)C=C1 | C26H19NO2S
